* H:\Documents\ShR2\SPICE Simulations\Isolation.asc
V1 N009 0 SINE(0 75 60) AC 1 0
V2 Vin N009 SINE(0 1 5000)
R5 N010 Vin 164k
R6 N016 N010 164k
R7 0 N017 164k
C1 N010 0 .016µF
C2 N017 Vin .016µF Rser=3.9
C3 N016 N017 .016µF Rser=3.9
V3 VCC 0 10
V4 VNEG 0 -10v
C4 N010 0 .016µF
R1 0 N017 164k
XU3 N016 N007 VCC VNEG N007 LTC6244HV
XU5 N016 N026 VCC VNEG N026 LTC6244HV
XU1 N011 N002 VCC VNEG N002 LTC6244HV
C5 N011 N001 .01µ
C6 N001 N007 .022µ
R2 N011 0 806
R3 N002 N001 634
XU2 N012 N004 VCC VNEG N004 LTC6244HV
C7 N012 N003 .012µ
C8 N003 N002 .027µ
R4 N012 0 909
R8 N004 N003 383
XU4 N013 N006 VCC VNEG N006 LTC6244HV
C9 N013 N005 .0033µ
C10 N005 N004 .0068µ
R9 N013 0 9.09k
R10 N006 N005 549
XU7 0 N008 VCC VNEG N014 LTC6244HV
R12 N014 N008 5k
R13 N008 N006 1k
R11 N015 N014 1.2k
C11 N015 0 1n
XU6 N027 N019 VCC VNEG N019 LTC6244HV
R14 N027 N018 21k
R15 N018 N026 9.53k
C12 N019 N018 820p
C13 0 N027 680p
XU8 N028 N021 VCC VNEG N021 LTC6244HV
R16 N028 N020 14.7k
R17 N020 N019 11.3k
C14 N021 N020 .001µ
C15 0 N028 680p
XU9 N029 N023 VCC VNEG N023 LTC6244HV
R18 N029 N022 12.4k
R19 N022 N021 4.99k
C16 N023 N022 .0027µ
C17 0 N029 680p
XU10 N030 N025 VCC VNEG N025 LTC6244HV
R20 N030 N024 2.32k
R21 N024 N023 2.74k
C18 N025 N024 .018µ
C19 0 N030 680p
;tran 0 .02 .01 .0001 uic
* FM Signal
* 60Hz Main
.ac oct 30 10 1000000
* Sallen Key Highpass (15kHz Passband 3kHz Stop @ - 89dB)
.lib LTC5.lib
.backanno
.end
