* C:\Users\Pavlo\Desktop\ShR2\SPICE Simulations\Isolation.asc
V1 N010 0 SINE(0 75 60) AC 1 0
V2 Vin N010 SINE(0 50 500)
R5 N011 Vin 164k
R6 N017 N011 164k
R7 0 N018 164k
C1 N011 0 .016µF
C2 N018 Vin .016µF Rser=3.9
C3 N017 N018 .016µF Rser=3.9
V3 VCC 0 10
V4 VNEG 0 -10v
C4 N011 0 .016µF
R1 0 N018 164k
XU3 N017 N008 VCC VNEG N008 LTC6244HV
XU5 N017 N027 VCC VNEG N027 LTC6244HV
XU1 N012 N003 VCC VNEG N003 LTC6244HV
C5 N012 N002 .01µ
C6 N002 N008 .022µ
R2 N012 0 806
R3 N003 N002 634
XU2 N013 N005 VCC VNEG N005 LTC6244HV
C7 N013 N004 .012µ
C8 N004 N003 .027µ
R4 N013 0 909
R8 N005 N004 383
XU4 N014 N007 VCC VNEG N007 LTC6244HV
C9 N014 N006 .0033µ
C10 N006 N005 .0068µ
R9 N014 0 9.09k
R10 N007 N006 549
XU7 0 N009 VCC VNEG N015 LTC6244HV
R12 N015 N009 5k
R13 N009 N007 1k
R11 N016 N015 1.2k
C11 N016 0 1n
XU6 N031 N020 VCC VNEG N020 LTC6244HV
R14 N031 N019 21k
R15 N019 N028 9.53k
C12 N020 N019 820p
C13 0 N031 680p
XU8 N032 N022 VCC VNEG N022 LTC6244HV
R16 N032 N021 14.7k
R17 N021 N020 11.3k
C14 N022 N021 .001µ
C15 0 N032 680p
XU9 N033 N024 VCC VNEG N024 LTC6244HV
R18 N033 N023 12.4k
R19 N023 N022 4.99k
C16 N024 N023 .0027µ
C17 0 N033 680p
XU10 N034 N026 VCC VNEG N026 LTC6244HV
R20 N034 N025 2.32k
R21 N025 N024 2.74k
C18 N026 N025 .018µF
C19 0 N034 680p
XU11 0 N029 VCC VNEG N035 LTC6244HV
R22 N035 N029 5k
R23 N029 N026 1k
R24 N030 N027 164k
R25 N036 N030 164k
R26 0 N037 164k
C20 N030 0 .016µF
C21 N037 N027 .016µF Rser=3.9
C22 N036 N037 .016µF Rser=3.9
C23 N030 0 .016µF
R27 0 N037 164k
XU12 N036 N028 VCC VNEG N028 LTC6244HV
D1 N017 0 SMBJ24CA
R30 N001 Vin 100k
R31 N001 0 100k
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
;tran 0 .2 .1 .0001 uic
* FM Signal
* 60Hz Main
.ac oct 30 10 1000000
* Sallen Key Highpass (15kHz Passband 3kHz Stop @ - 89dB)
.lib LTC5.lib
.backanno
.end
